datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:82]=[CH:83]1>>C1=CC=C([S:32]([C-:21]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:82]=[CH:83]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C[N+:21](C)=[CH:20]Cl.C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1>>C[N:21](C)[CH:20](Cl)[H:10].C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1 10,11=10,20;20,21=21"
"C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.C[C:21]1=[C:22]([O-:23])CC[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C 10,11=10,20"
"C/[N:10]=C/C1=CC=CC=C1.C1C[C:20](=[O:21])CCO1>>C/[N+:10](=C/C1=CC=CC=C1)[C:20]1([O-:21])CCOCC1 10=20;20,21=21"
"C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](C)=[CH2:10].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[Si](C)(C)O[N+:12](O[Si](C)(C)C)=[C:11](C)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>CC(C)(C1=CC=CC=C1)[O-:21].O=[N+]([O-])C1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[S:20]C(F)(F)F)C=C1 10,11=10,20;12=11,12;20,21=21"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C1=CC=C(C2CCC[NH:10]2)C=C1>>C1=CC=C(C2CCC[NH+:10]2[CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)C=C1 10=20
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].F[B-](F)(F)[C:11]1=[CH:10][O:14][CH:13]=[CH:12]1>>CC[O:33][C:31]([C:20]1([CH:10]2[C:11]([B-](F)(F)F)=[CH:12][CH:13]=[O+:14]2)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20"
CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72] 10=20
"C1COC2(CC[C:20](=[O:21])CC2)O1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCC[CH:10]1[C:20]1([O-:21])CCC2(CC1)OCCO2 10,11=10,20;12=11,12;20,21=21"
"C1CC[CH:63]=[CH:62][CH:11]=[CH:10]C1.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N:33](C)[C:22](=[CH:21][CH2:20][CH:10]1CCCC[CH:63]=[CH:62][CH+:11]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)S1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=CC=C(C)S2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>C1C[O:33][C:22]([O-:23])=[C:21]1[CH2:20][CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.Cl[Zn:11]Cl 10,11=10,20;20,21=21,22;22,23=23"
